US08242125B2
50-G. (±)-4-(1H-Indol-5-yloxy)-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester
A solution of (±)-4-chloro-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester (220 mg, 0.77 mmol), 5-hydroxy indole (155 mg, 1.16 mmol) and MeCN (10 mL) is treated with DBU (0.2 mL, 1.16 mmol) and heated at 80° C. for 4 h. The volume is reduced in vacuo and the residue is separated via FCC (5-90% EtOAc/heptane) to give the title compound. MS (ESI) m/z 381.3 (M+H).

reactant | (±)-4-chloro-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.77 mmol, 220 mg | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1C)Cl | C13H18ClN3O2
reactant | 5-hydroxy indole | 1.16 mmol, 155 mg | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | DBU | 1.16 mmol, 0.2 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | (±)-4-(1H-Indol-5-yloxy)-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1C)OC=1C=C2C=CNC2=CC1 | C21H24N4O3
